US04477389
2,4,6-Trichlorophenyl isocyanate (1).
1,1,3,3-tetramethylurea (1.52 ml, 12.75 mmoles) was added to a solution of phosgene (50.0 g, 505.43 mmoles) dissolved in toluene (150 ml). The resulting solution was stirred for 10 min. at which time 2,4,6-trichloroaniline (10.0 g, 50.90 mmoles) was added. The solution was heated to a temperature of 70°-80° C. for 1.5 hr. and then refluxed for 1.5 hr. while phosgene was bubbled in. After removing excess phosgene under reduced pressure, the clear upper layer solution was collected by decantation from the bottom oil layer, and the bottom oil layer was discarded. The solution was then evaporated to give a solid. The solid was dried under a vacuum to give a white solid (11.3 g, 99.3 pct). This product was recrystallized from dry carbon tetrachloride to give a colorless crystalline compound, m.p. 65°-66° C.; Infrared (IR): γ max 2,282 cm-1 (NCO); nuclear magnetic resonance (NMR) (chloroform-d): τ, 2.7 (2-proton singlet, H-3,5, aromatic protons).

reactant | 1,1,3,3-tetramethylurea | 12.75 mmoles, 1.52 ml | CN(C(=O)N(C)C)C | C5H12N2O
reactant | phosgene | 505.43 mmoles, 50.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 2,4,6-trichloroaniline | 50.90 mmoles, 10.0 g | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,6-Trichlorophenyl isocyanate | ClC1=C(C(=CC(=C1)Cl)Cl)N=C=O | C7H2Cl3NO
